US08664401B2
Step A) Cis-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclobutanol
A solution of cis-3-(4-bromophenyl)cyclobutanol (0.500 g, 2.20 mmol), bis(pinacolato)diborane (0.671 g, 2.64 mmol), potassium acetate (0.864 g, 8.81 mmol) and palladium dppf (89.9 mg, 0.110 mmol) in 1,4-dioxane (20 mL) was heated to reflux. After 2 hours the reaction was cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was concentrated the resulting residue was partitioned between ether and water, an emulsion was removed by filtration. The layers were separated; the organic layer was washed with water (2×) then brine (1×). The organic layer was dried (Na2SO4), filtered and concentrated. Purification by flash column chromatography on a Biotage SNAP cartridge Kp-sil 25 g column (hexanes/ethyl acetate=8:2) afforded the title compound (430 mg) as a clear oil contaminated with 10% cis-3-(4-bromophenyl)cyclobutanol.

reactant | cis-3-(4-bromophenyl)cyclobutanol | 2.20 mmol, 0.500 g | BrC1=CC=C(C=C1)[C@H]1C[C@H](C1)O | C10H11BrO
reactant | bis(pinacolato)diborane | 2.64 mmol, 0.671 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.81 mmol, 0.864 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium dppf | 0.110 mmol, 89.9 mg | [Pd].C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Cis-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclobutanol | 430 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[C@H]1C[C@H](C1)O)C | C16H23BO3
